US04006245
A mixture of 3.35 parts of 7-[5-(4-acetyl-3-hydroxyphenoxy) pentyloxy]-4-oxo-4H-1-benzopyran-2-carboxylic acid and 0.66 parts of sodium bicarbonate in 200 parts of water, was heated to effect solution. The solution was filtered while hot and on cooling a white solid crystallised. This was filtered, washed with ice-cold water and dried under vacuum over phosphorus pentoxide to yield 3.0 parts of 7-[5-(4-acetyl-3-hydroxyphenoxy) pentyloxy]-4-oxo-4H-1-benzopyran-2-carboxylic acid sodium salt, melting point 210° C (indefinite).

reactant | 7-[5-(4-acetyl-3-hydroxyphenoxy) pentyloxy]-4-oxo-4H-1-benzopyran-2-carboxylic acid | C(C)(=O)C1=C(C=C(OCCCCCOC2=CC3=C(C(C=C(O3)C(=O)O)=O)C=C2)C=C1)O | C23H22O8
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | O | H2O
product | 7-[5-(4-acetyl-3-hydroxyphenoxy) pentyloxy]-4-oxo-4H-1-benzopyran-2-carboxylic acid sodium salt | [Na+].C(C)(=O)C1=C(C=C(OCCCCCOC2=CC3=C(C(C=C(O3)C(=O)[O-])=O)C=C2)C=C1)O | InChI=1S/C23H22O8.Na/c1-14(24)17-7-5-15(11-19(17)25)29-9-3-2-4-10-30-16-6-8-18-20(26)13-22(23(27)28)31-21(18)12-16;/h5-8,11-13,25H,2-4,9-10H2,1H3,(H,27,28);/q;+1/p-1
